US06482841B1
2,6-Dimethyl-4-(2-nitrophenyl) pyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester
To a solution of 30 g (0.07 mol) of 2,6-dimethyl-4-(2-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester in 72 ml of acetic acid, heated to reflux, 7.2 g (0.07 mol) of CrO3 were portionwise added. After the addition was complete, reflux was maintained for one additional hour. The reaction mixture was then slowly poured on ice-cooled aq NH4OH (150 ml). The mixture separated in two phases, and it was evacuated with CH2Cl2 (3×100 ml). The organic extract was dried with anh Na2SO4, and concentrated to dryness at reduced pressure. The resulting oil was crystallised in EtAcO-diethylether, yielding a white solid (mp 69-70° C., EtOH) with a yield of 79%.

reactant | 2,6-dimethyl-4-(2-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester | 0.07 mol, 30 g | O1C(CCC1)COC(=O)C=1C(C(=C(NC1C)C)C(=O)OC)C1=C(C=CC=C1)[N+](=O)[O-] | C21H24N2O7
reactant | NH4OH | 150 ml | [NH4+].[OH-]
solvent | acetic acid | 72 ml | C(C)(=O)O | C2H4O2
product | 2,6-Dimethyl-4-(2-nitrophenyl) pyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester | yield of 79% | O1C(CCC1)COC(=O)C=1C(=C(C(=NC1C)C)C(=O)OC)C1=C(C=CC=C1)[N+](=O)[O-] | C21H22N2O7
